US05891909
b) 3-[3-(3-Fluorophenylsulfonyloxy)-5-methylphenoxy]propanol
A solution of 3-(3-fluorophenylsulfonyloxy)-5-methylphenol (930 mg, 3.3 mmol, as prepared in the preceding step), 1,3-propanediol (0.75 mL, 10 mmol), 1,1'-(azodicarbonyl)dipiperidine (1.76 g, 7.0 mmol), and anhydrous tetrahydrofuran (20 mL) was cooled to 0° C. under nitrogen. Tri-n-butylphosphine (1.7 mL, 7.0 mmol) was added dropwise over 8.5 minutes. The mixture was stirred at 0° C. for 5 minutes then at ambient temperature for 5.5 hours. Diethyl ether (100 mL) was added, and the mixture was stirred for 15 minutes. The mixture was filtered, and the filtrate was concentrated. The residue was purified by flash column chromatography through silica gel (25% to 35% ethyl acetate in hexane) to give the title compound as a yellow oil (877 mg, 78%). 1H-NMR (300 MHz, CDCl3) δ 7.65-7.68 (m, 1H), 7.50-7.60 (m, 2H), 7.35-7.41 (m, 1H), 6.63 (br s, 1H), 6.41 (br s, 1H), 6.38 (br t, 1H, J=2.1 Hz), 4.01 (t, 2H, J=6.0 Hz), 3.82 (br t, 2H, J=6.0 Hz), 2.25 (s, 3H), 1.99 (pentet, 2H, J=6.0 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C16H17FO5S: 363.1 (M+Na), 379.0 (M+K). Found: 362.8, 378.9.

reactant | 3-(3-fluorophenylsulfonyloxy)-5-methylphenol | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C13H11FO4S
reactant | 1,3-propanediol | 10 mmol, 0.75 mL | C(CCO)O | C3H8O2
reactant | 1,1'-(azodicarbonyl)dipiperidine | 7.0 mmol, 1.76 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Tri-n-butylphosphine | 7.0 mmol, 1.7 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-[3-(3-Fluorophenylsulfonyloxy)-5-methylphenoxy]propanol | 877 mg, 78% | FC=1C=C(C=CC1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C16H17FO5S
